US08809539B2
Isobutyl chloroformate (0.158 mL, 0.0012 mol) is added to a solution of 1-{4-[5-(2-fluoro-biphenyl-4-yl)-[1,2,4]oxadiazol-3-yl]-benzyl}-piperidine-4,4-dicarboxylic acid benzyl ester (0.6 g, 0.0010 mol) and N-methyl morpholine (0.156 mL, 0.0015 mol) in tetrahydrofuran (20 mL) at 5° C. The reaction mixture is stirred at 5° C. for 45 minutes. 1-Amino piperidine (0.162 mL, 0.0015 mol) is added to the reaction mixture and is stirred for 30 minutes at 5° C. and then at room temperature for 45 minutes. Demineralized water (10 mL) is added to the reaction mixture, Organic layer is separated and dried over sodium sulphate. Removal of solvent under reduced pressure gives a viscous liquid, which is purified by column chromatography (silica gel 230-400 mesh, hexane:ethyl acetate 70:30) to get 1-{4-[5-(2-fluoro-biphenyl-4-yl)-[1,2,4]oxadiazol-3-yl]-benzyl}-4-(piperidine-1-ylcarbamoyl)-piperidine-4-carboxylic acid benzyl ester.

reactant | Isobutyl chloroformate | 0.0012 mol, 0.158 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 1-{4-[5-(2-fluoro-biphenyl-4-yl)-[1,2,4]oxadiazol-3-yl]-benzyl}-piperidine-4,4-dicarboxylic acid benzyl ester | 0.0010 mol, 0.6 g | C(C1=CC=CC=C1)OC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=CC=CC=C1)F)C(=O)O | C35H30FN3O5
reactant | N-methyl morpholine | 0.0015 mol, 0.156 mL | CN1CCOCC1 | C5H11NO
reactant | 1-Amino piperidine | 0.0015 mol, 0.162 mL | NN1CCCCC1 | C5H12N2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 1-{4-[5-(2-fluoro-biphenyl-4-yl)-[1,2,4]oxadiazol-3-yl]-benzyl}-4-(piperidine-1-ylcarbamoyl)-piperidine-4-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=CC=CC=C1)F)C(NN1CCCCC1)=O | C40H40FN5O4
